US04652584
A sample of 47 g (0.29 mole) of ICl was added to a solution of 40 g (0.29 mole) of 4-hydroxybenzamide in 400 ml of MeOH and 800 ml of acetic acid in the absence of light. The mixture was stirred for 70 hr under N2 at 25° C. A precipitate was collected by filtration. The filtrate was diluted with water and a second crop of crystals collected by filtration. A third crop was obtained by evaporation of solvent from the second filtrate. The combined solids were recrystallized from 95% ethanol. The solid which precipitated and was collected (28 g). It was largely diiodinated material. The filtrate was evaporated in vacuo and the residue recrystallized from MeOH. The precipitated solid was collected by filtration (2.0 g). It was again diiodinated material. The filtrate was concentrated to dryness in vacuo to give 23 g (30% yield) of brownish crystalline 4-hydroxy-3-iodobenzamide, mp 90°-95° C.

reactant | ICl | 0.29 mole, 47 g | ICl | ClI
reactant | 4-hydroxybenzamide | 0.29 mole, 40 g | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
solvent | MeOH | 400 ml | CO | CH4O
solvent | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
product | 4-hydroxy-3-iodobenzamide | 23 g, 30% yield | OC1=C(C=C(C(=O)N)C=C1)I | C7H6INO2
